* Sky130 fully differential two-stage Miller op amp with a folded-cascode first stage.
* The implementation uses symmetric common-source output stages, series-RC
* Miller compensation, and continuous-time transistor-level CMFB.
.subckt sampling_feedback_ota vss iref vdd vinn vinp vocm voutn voutp
* -- single-reference, all-MOS bias generation --
XREF iref iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=4
XNBP vbp iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=4
XPBP vbp vbp vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=32 nf=8

* PMOS folding-cascode replica.  The 25 uA branch copies both the current
* density of the 100 uA top source (16/64 width scaling) and the 25 uA
* signal cascode itself.  Its diode-connected cascode therefore generates
* vpc from MOS VSG values instead of an IR level shift.
XPCBIAS vpc iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=8 nf=2
XPCSOURCE pcs vbp vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=16 nf=4
XPCDIO vpc vpc pcs vdd sky130_fd_pr__pfet_01v8 l=0.25 w=24 nf=6

* Low-voltage NMOS cascode replica.  The lower device copies the 25 uA
* sink current density and the upper diode copies the signal cascode.
* Finite output resistance places ncs close to the lower device's
* saturation boundary, producing the standard wide-swing cascode rail.
XNCSOURCE ncs iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=8 nf=2
XNCDIO vcn vcn ncs vss sky130_fd_pr__nfet_01v8 l=0.25 w=4 nf=1
XNCLOAD vcn vbp vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=16 nf=4

* The high-current second-stage load uses a 50 uA same-L replica and
* a legal 10:1 PMOS mirror to supply each output branch.
XOBIASN vbpout iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=4
XOBIASP vbpout vbpout vdd vdd sky130_fd_pr__pfet_01v8 l=0.5 w=12 nf=3

* -- folded-cascode first stage --
XTAIL1 tail iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=160 nf=40
XTAIL2 tail iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=160 nf=40
XTAIL3 tail iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=160 nf=40
XTAIL4 tail iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=128 nf=32
XINP fp vinp tail vss sky130_fd_pr__nfet_01v8_lvt l=1 w=192 nf=48
XINN fn vinn tail vss sky130_fd_pr__nfet_01v8_lvt l=1 w=192 nf=48
XSOURCEP1 fp vbp vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=312 nf=78
XSOURCEP2 fp vbp vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=312 nf=78
XSOURCEN1 fn vbp vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=312 nf=78
XSOURCEN2 fn vbp vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=312 nf=78
XPCASP stagep vpc fp vdd sky130_fd_pr__pfet_01v8 l=0.25 w=24 nf=6
XPCASN stagen vpc fn vdd sky130_fd_pr__pfet_01v8 l=0.25 w=24 nf=6
XNCASP stagep vcn sinkp vss sky130_fd_pr__nfet_01v8 l=0.25 w=4 nf=1
XNCASN stagen vcn sinkn vss sky130_fd_pr__nfet_01v8 l=0.25 w=4 nf=1
XSINKP sinkp vcmfb vss vss sky130_fd_pr__nfet_01v8 l=1 w=8 nf=2
XSINKN sinkn vcmfb vss vss sky130_fd_pr__nfet_01v8 l=1 w=8 nf=2

* -- symmetric common-source second stage --
XSECOND_P voutp stagep vss vss sky130_fd_pr__nfet_01v8 l=0.25 w=64 nf=16
XSECOND_N voutn stagen vss vss sky130_fd_pr__nfet_01v8 l=0.25 w=64 nf=16
XLOAD_P voutp vbpout vdd vdd sky130_fd_pr__pfet_01v8 l=0.5 w=120 nf=30
XLOAD_N voutn vbpout vdd vdd sky130_fd_pr__pfet_01v8 l=0.5 w=120 nf=30

* -- symmetric series-RC Miller compensation --
RZP stagep zp 0.45k
CCP zp voutp 0.64p
RZN stagen zn 0.45k
CCN zn voutn 0.64p

* -- continuous-time output common-mode feedback --
RCMP voutp vcms 100k
RCMN voutn vcms 100k
CCMP voutp vcms 100f
CCMN voutn vcms 100f
XCMTAIL cmtail iref vss vss sky130_fd_pr__nfet_01v8 l=1 w=16 nf=4
XCMREF cma vocm cmtail vss sky130_fd_pr__nfet_01v8 l=0.5 w=20 nf=5
XCMSENSE vcmfb vcms cmtail vss sky130_fd_pr__nfet_01v8 l=0.5 w=20 nf=5
XCMDIO cma cma vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=16 nf=4
XCMMIRROR vcmfb cma vdd vdd sky130_fd_pr__pfet_01v8 l=1 w=18 nf=8
XCMNDIO vcmfb vcmfb vss vss sky130_fd_pr__nfet_01v8 l=1 w=2 nf=1
.ends sampling_feedback_ota
